US09169259B2
3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzaldehyde (28 mg, 0.070 mmol) and piperidine (7 mg, 0.077 mmol) were dissolved in 1,2-dichloroethane (8 mL), stirred for 1 h, then sodium triacetoxyborohydride (44 mg, 0.21 mmol) was added followed by AcOH (0.1 mL). After 15 h, the solvent was removed and the residue was purified by chromatography (silica gel, dichloromethane/methanol 40/1) to give N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)-6-(3-(piperidin-1-ylmethyl)phenyl)imidazo[1,2-b]pyridazin-8-amine (17 mg, 21%) as an orange solid. 1H NMR (300 MHz, CD3OD): δ 8.80 (s, 1H), 8.00 (s, 1H), 7.91-7.84 (m, 2H), 7.59 (s, 1H), 7.48-7.41 (m, 3H), 6.30 (d, 1H, J=7.8 Hz), 6.09 (d, 1H, J=8.4 Hz), 4.30-4.26 (m, 1H), 3.60-3.43 (m, 4 h), 2.51-2.47 (m, 4 h), 2.15-2.05 (m, 3H), 1.78 (brs, 1H), 1.63-1.60 (m, 4 h), 1.51-1.46 (m, 2H), 1.19 (d, 3H, J=6.3 Hz). LC-MS: [M+H]+, 468, tR=1.397 min, HPLC: 99.52% at 214 nm, 98.65% at 254 nm, tR=5.76 min.

reactant | 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzaldehyde | 0.070 mmol, 28 mg | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C=O)C=CC1)C=CN2 | C23H22N6O
reactant | piperidine | 0.077 mmol, 7 mg | N1CCCCC1 | C5H11N
reactant | sodium triacetoxyborohydride | 0.21 mmol, 44 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 0.1 mL | CC(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 8 mL | ClCCCl | C2H4Cl2
product | N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)-6-(3-(piperidin-1-ylmethyl)phenyl)imidazo[1,2-b]pyridazin-8-amine | 17 mg, 21% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC(=CC=C1)CN1CCCCC1)C=CN2 | C28H33N7
